* C:\Users\lugfe\Documents\GitHub\Electro1-TP2\Darlington.asc
Q1 N001 N003 N004 0 BC547C
Q2 N001 N004 N005 0 BC547B
R1 N001 N003 1360k
J1 N005 N007 P001 2N4416
R3 P001 N007 3.4k
V1 N001 0 15
V2 0 N007 15
C1 N003 P002 10µ
R2 P002 N002 560
V3 N002 0 SINE(0 500m 5k 0 0 0 100) AC 1
C2 N006 N005 10µ
R4 N006 0 2.2k
R5 N002 0 10Mega
C3 N002 0 10p
.model NPN NPN
.model PNP PNP
.lib C:\Users\lugfe\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NJF NJF
.model PJF PJF
.lib C:\Users\lugfe\Documents\LTspiceXVII\lib\cmp\standard.jft
.ac dec 400 1 1mega
.backanno
.end
